US08871934B2
2-chloro-4-methyl-fluoren-9-one
Under anhydrous calcium chloride drying conditions, a mixture of 4′-chloro-2′-methyl-biphenyl-2-carboxylic acid (21.60 g) and Eaton's reagent (7.7 w/w % solution of phosphorus pentoxide in methanesulfonic acid) (170 ml) was stirred at 100° C. for 2.5 hr. The reaction mixture was ice-cooled, water (500 ml) was slowly added dropwise, and the mixture was further stirred at room temperature for 10 min. This suspension was filtered, the obtained solid was mixed with 30 v/v % aqueous ethanol solution (200 ml), and the slurry was stirred at room temperature for 10 min, and filtered. The obtained solid was air-dried and dried under reduced pressure at 80° C. to give the title compound (19.744 g, 99%).

reactant | 4′-chloro-2′-methyl-biphenyl-2-carboxylic acid | 21.60 g | ClC1=CC(=C(C=C1)C=1C(=CC=CC1)C(=O)O)C | C14H11ClO2
reactant | Eaton's reagent | 170 ml | CS(=O)(=O)O.O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3
solvent | water | 500 ml | O | H2O
product | 2-chloro-4-methyl-fluoren-9-one | 19.744 g, 99% | ClC1=CC=2C(C3=CC=CC=C3C2C(=C1)C)=O | C14H9ClO
